* Vector Fitting — Foster-I RLC Subcircuit
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 3.434e-01

.SUBCKT TWO_RLC_FOSTER 1 0

* Branch 0: series inductance (e-term)
L0000   1  n0000  10.4p

* Branch 1: series resistance (d-term)
R0000   n0000  n0001  6.735m

* Branch 2: parallel RLC  pole=-2.3665e+08+3.7642e+09j
* Z = 1/(1/R + 1/sL + sC),  R=151,  L=5.023n,  C=13.99p
R0001  n0001 n0002  151
L0001  n0001 n0002  5.023n
C0000  n0001 n0002  13.99p

* Branch 3: parallel RLC  pole=-4.7181e+07+9.4128e+08j
* Z = 1/(1/R + 1/sL + sC),  R=942.5,  L=100.1n,  C=11.24p
R0002  n0002 n0003  942.5
L0002  n0002 n0003  100.1n
C0001  n0002 n0003  11.24p

* Branch 4: parallel RLC  pole=-5.8984e+04+7.6780e+06j
* Z = 1/(1/R + 1/sL + sC),  R=150m,  L=300.2p,  C=56.5u
R0003  n0003 0  150m
L0003  n0003 0  300.2p
C0002  n0003 0  56.5u

.ENDS TWO_RLC_FOSTER

